US09108948B2
(1S,2S)-[2-(4-Bromophenyl)cyclopropyl]methanol
The title compound was prepared by the method of A. B. Charette and H. Lebel (Organic Synthesis, 1998, 76, 86-96) substituting trans-3-(4-bromophenyl)prop-2-en-1-ol (the product of Example 1A) for 3-phenyl-prop-2-en-1-ol. 1H NMR (300 MHz, CDCl3): δ 0.92-1.0 (m, 2H), 1.45-1.48 (m, 2H), 1.76-1.85 (m, 1H), 3.61 (d, J=7.5 Hz, 2H), 6.95 (d, J=9 Hz, 2H), 7.37 (d, J=9 Hz, 2H). MS (DCl—NH3) m/z 228 (M+H)+.

reactant | trans-3-(4-bromophenyl)prop-2-en-1-ol | BrC1=CC=C(C=C1)/C=C/CO | C9H9BrO
reactant | 3-phenyl-prop-2-en-1-ol | C1(=CC=CC=C1)C=CCO | C9H10O
reactant | NH3 | N | H3N
product | (1S,2S)-[2-(4-Bromophenyl)cyclopropyl]methanol | BrC1=CC=C(C=C1)[C@@H]1[C@H](C1)CO | C10H11BrO
